US04604417
III. Preparation of 2-hydroxyethyl 3-(n butylthio)-2-methylpropionate
To the reactor described in Example I was charged 55 grams of 2-hydroxyethylmethacrylate, 37 grams of n-butanethiol, 1.5 grams of Triton™ B and 3 pellets of KOH. The flask contents were reacted at 40° to 50° C. until the reaction was complete by gas chromatography analysis. The yield was theoretical.

reactant | 2-hydroxyethylmethacrylate | 55 grams | OCCOC(C(=C)C)=O | C6H10O3
reactant | n-butanethiol | 37 grams | C(CCC)S | C4H10S
reactant | KOH | [OH-].[K+]
product | 2-hydroxyethyl 3-(n butylthio)-2-methylpropionate | C(CCC)SCC(C(=O)OCCO)C | C10H20O3S
